US04107307
3-(2-tert-Butyl-4-imidazolylmethylene)carbazic acid ethyl ester
A 7.6 gm. portion of 2-tert-butyl-4-imidazolecarboxaldehyde and 5.2 gm. of ethyl carbazate in 100 ml. of ethanol are reacted as described in Example 32 giving the desired product, m.p. 194°-197° C.

reactant | 2-tert-butyl-4-imidazolecarboxaldehyde | C(C)(C)(C)C=1NC=C(N1)C=O | C8H12N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-tert-Butyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C(C)(C)C)=O | C11H18N4O2
